US06372777B1
Preparation of 3-Oxo-2-(2-oxo-2-phenyl-ethyl)-butyric acid ethyl ester
Sodium metal (60 mmol, 1.4 g) was suspended in 80 mL (milliliter) toluene under nitrogen. Ethyl acetoacetate (88 mmol (millimole), 11.4 g) was added dropwise, and the resulting mixture was stirred until all sodium was consumed. The reaction mixture then was cooled in an ice bath (0-5° C.) and 2-bromoacetophenone (60 mmol, 12 g) in 140 mL toluene was added dropwise. The reaction was stirred overnight with gradual warming to room temperature. Analysis of the reaction mixture by GC and TLC showed that the reaction was complete. The reaction mixture then was washed with 200 mL water, then the organic and aqueous layers were separated. The organic layer was dried over MgSO4 (magnesium sulfate). The toluene was removed from the organic layer under vacuum to provide a yellow oil which was purified by Kugelrohr distillation (b.p. 135-145° C. at 0.35 Torr.).

reactant | Sodium | 60 mmol, 1.4 g | [Na] | Na
reactant | Ethyl acetoacetate | 88 mmol, 11.4 g | C(CC(=O)C)(=O)OCC | C6H10O3
reactant | 2-bromoacetophenone | 60 mmol, 12 g | BrCC(=O)C1=CC=CC=C1 | C8H7BrO
solvent | toluene | 80 mL | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 140 mL | C1(=CC=CC=C1)C | C7H8
product | 3-Oxo-2-(2-oxo-2-phenyl-ethyl)-butyric acid ethyl ester | C(C)OC(C(C(C)=O)CC(C1=CC=CC=C1)=O)=O | C14H16O4
